US04000275
6-(Carboethoxymethyl)-3-methylbenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-methylbenzimidazo[2,1-b]quinazoline-12(6H)one and ethyl bromoacetate.

reactant | 3-methylbenzimidazo[2,1-b]quinazoline-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C15H11N3O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 6-(Carboethoxymethyl)-3-methylbenzimidazo[2,1-b]-quinazolin-12(6H)one | C(=O)(OCC)CN1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)C | C19H17N3O3
